US06884801B1
Under conditions similar to those used for the preparation of 2-(ethylthio)aniline in Example 2, 2-amino-5-fluorothiophenol was alkylated with methyl iodide to give 2-methylthio-4-fluoroaniline.

reactant | 2-(ethylthio)aniline | C(C)SC1=C(N)C=CC=C1 | C8H11NS
reactant | 2-amino-5-fluorothiophenol | NC1=C(C=C(C=C1)F)S | C6H6FNS
reactant | methyl iodide | CI | CH3I
product | 2-methylthio-4-fluoroaniline | CSC1=C(N)C=CC(=C1)F | C7H8FNS
